US08067445B2
Step 4: (3-Trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 185, Step 4, using the following starting materials: (3-hydroxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester and N-phenyl-bis(trifluoromethanesulfonimide).

reactant | (3-hydroxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)O)=O | C11H11F3O3
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
product | (3-Trifluoromethanesulfonyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F)=O | C12H10F6O5S
